*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-47N
* Inductance = 46.3nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 5MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-47N_freq port1 port2 PARAMS: Cpar=10.6pF Ind=46.3nH
X1 port1 port2 Model1B PARAMS:
+ R1=490
+ R2=0.001
+ C= {Cpar}
+ K1=0.0000287
+ K2=0.0577
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=65.7387872
.ends 0603LS-47N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-72N
* Inductance = 70nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 5MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-72N_freq port1 port2 PARAMS: Cpar=11.5pF Ind=70nH
X1 port1 port2 Model1B PARAMS:
+ R1=872
+ R2=0.001
+ C= {Cpar}
+ K1=0.0000507
+ K2=0.165
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=77.9529134
.ends 0603LS-72N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-101
* Inductance = 95nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 5MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-101_freq port1 port2 PARAMS: Cpar=7.5pF Ind=95nH
X1 port1 port2 Model1B PARAMS:
+ R1=1264
+ R2=0.001
+ C= {Cpar}
+ K1=0.0000734
+ K2=0.15
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=112.140338
.ends 0603LS-101_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-121
* Inductance = 117nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 5MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-121_freq port1 port2 PARAMS: Cpar=7.3pF Ind=117nH
X1 port1 port2 Model1B PARAMS:
+ R1=1706
+ R2=0.001
+ C= {Cpar}
+ K1=0.0000734
+ K2=0.152
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=125.974265
.ends 0603LS-121_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-151
* Inductance = 149nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 5MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-151_freq port1 port2 PARAMS: Cpar=2pF Ind=149nH
X1 port1 port2 Model1B PARAMS:
+ R1=2756
+ R2=0.002
+ C= {Cpar}
+ K1=0.000092
+ K2=0.145
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=269.410235
.ends 0603LS-151_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-181
* Inductance = 179nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 5MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-181_freq port1 port2 PARAMS: Cpar=0.9pF Ind=179nH
X1 port1 port2 Model1B PARAMS:
+ R1=3546
+ R2=0.005
+ C= {Cpar}
+ K1=0.0000954
+ K2=0.16
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=437.118954
.ends 0603LS-181_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-241
* Inductance = 232nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 5MHz-350MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-241_freq port1 port2 PARAMS: Cpar=0.17pF Ind=232nH
X1 port1 port2 Model1B PARAMS:
+ R1=4025
+ R2=0.002
+ C= {Cpar}
+ K1=0.000121
+ K2=0.214
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1131.77205
.ends 0603LS-241_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-271
* Inductance = 261nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 5MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-271_freq port1 port2 PARAMS: Cpar=0.11pF Ind=261nH
X1 port1 port2 Model1B PARAMS:
+ R1=3518
+ R2=0.002
+ C= {Cpar}
+ K1=0.000115
+ K2=0.217
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1492.12725
.ends 0603LS-271_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-331
* Inductance = 325nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 5MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-331_freq port1 port2 PARAMS: Cpar=0.12pF Ind=325nH
X1 port1 port2 Model1B PARAMS:
+ R1=3330
+ R2=0.002
+ C= {Cpar}
+ K1=0.00013
+ K2=0.242
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1602.81282
.ends 0603LS-331_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-391
* Inductance = 379nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 5MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-391_freq port1 port2 PARAMS: Cpar=0.14pF Ind=379nH
X1 port1 port2 Model1B PARAMS:
+ R1=2920
+ R2=0.095
+ C= {Cpar}
+ K1=0.000144
+ K2=0.372
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1702.5455
.ends 0603LS-391_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-471
* Inductance = 455nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 5MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-471_freq port1 port2 PARAMS: Cpar=0.13pF Ind=455nH
X1 port1 port2 Model1B PARAMS:
+ R1=1886
+ R2=0.432
+ C= {Cpar}
+ K1=0.000038
+ K2=0.347
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2146.41598
.ends 0603LS-471_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-561
* Inductance = 535nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 5MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-561_freq port1 port2 PARAMS: Cpar=0.13pF Ind=535nH
X1 port1 port2 Model1B PARAMS:
+ R1=1676
+ R2=0.319
+ C= {Cpar}
+ K1=0.0000394
+ K2=0.394
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2504.79026
.ends 0603LS-561_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-681
* Inductance = 677nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 5MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-681_freq port1 port2 PARAMS: Cpar=0.28pF Ind=677nH
X1 port1 port2 Model1B PARAMS:
+ R1=893
+ R2=0.365
+ C= {Cpar}
+ K1=0.0000797
+ K2=0.511
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2422.93584
.ends 0603LS-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-781
* Inductance = 765nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 5MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-781_freq port1 port2 PARAMS: Cpar=0.1pF Ind=765nH
X1 port1 port2 Model1B PARAMS:
+ R1=3800
+ R2=0.532
+ C= {Cpar}
+ K1=0.0000383
+ K2=0.535
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2906.70605
.ends 0603LS-781_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-821
* Inductance = 799nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-821_freq port1 port2 PARAMS: Cpar=0.15pF Ind=799nH
X1 port1 port2 Model1B PARAMS:
+ R1=2740
+ R2=0.669
+ C= {Cpar}
+ K1=0.000057
+ K2=0.633
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2610.1391
.ends 0603LS-821_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-102
* Inductance = 997nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-102_freq port1 port2 PARAMS: Cpar=0.33pF Ind=997nH
X1 port1 port2 Model1B PARAMS:
+ R1=1180
+ R2=0.666
+ C= {Cpar}
+ K1=0.000145
+ K2=0.788
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2569.66848
.ends 0603LS-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-122
* Inductance = 1180nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-122_freq port1 port2 PARAMS: Cpar=0.35pF Ind=1180nH
X1 port1 port2 Model1B PARAMS:
+ R1=690
+ R2=0.666
+ C= {Cpar}
+ K1=0.0000808
+ K2=0.778
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3705.20654
.ends 0603LS-122_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-152
* Inductance = 1500nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-152_freq port1 port2 PARAMS: Cpar=1.26pF Ind=1500nH
X1 port1 port2 Model1B PARAMS:
+ R1=242
+ R2=0.956
+ C= {Cpar}
+ K1=0.0000339
+ K2=0.94
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3378.60079
.ends 0603LS-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-182
* Inductance = 1760nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-65MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-182_freq port1 port2 PARAMS: Cpar=1.56pF Ind=1760nH
X1 port1 port2 Model1B PARAMS:
+ R1=27.8
+ R2=1.51
+ C= {Cpar}
+ K1=0.0000842
+ K2=1.06
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8224.06961
.ends 0603LS-182_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-222
* Inductance = 2140nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-222_freq port1 port2 PARAMS: Cpar=1.73pF Ind=2140nH
X1 port1 port2 Model1B PARAMS:
+ R1=33.5
+ R2=1.1
+ C= {Cpar}
+ K1=0.0000723
+ K2=1.31
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8967.70369
.ends 0603LS-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-272
* Inductance = 2620nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-272_freq port1 port2 PARAMS: Cpar=1.59pF Ind=2620nH
X1 port1 port2 Model1B PARAMS:
+ R1=36.1
+ R2=1.37
+ C= {Cpar}
+ K1=0.0000576
+ K2=1.71
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11310.2634
.ends 0603LS-272_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-332
* Inductance = 3290nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-37MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-332_freq port1 port2 PARAMS: Cpar=2.68pF Ind=3290nH
X1 port1 port2 Model1B PARAMS:
+ R1=80.4
+ R2=1.49
+ C= {Cpar}
+ K1=0.0000217
+ K2=1.98
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7444.84475
.ends 0603LS-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-392
* Inductance = 3810nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-36MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-392_freq port1 port2 PARAMS: Cpar=2.69pF Ind=3810nH
X1 port1 port2 Model1B PARAMS:
+ R1=91.5
+ R2=1.89
+ C= {Cpar}
+ K1=0.0000233
+ K2=2.1
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7579.49192
.ends 0603LS-392_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-472
* Inductance = 4660nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-472_freq port1 port2 PARAMS: Cpar=3.49pF Ind=4660nH
X1 port1 port2 Model1B PARAMS:
+ R1=76.1
+ R2=3.14
+ C= {Cpar}
+ K1=0.0000171
+ K2=2.59
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8452.88367
.ends 0603LS-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-562
* Inductance = 5390nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-28MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-562_freq port1 port2 PARAMS: Cpar=3.14pF Ind=5390nH
X1 port1 port2 Model1B PARAMS:
+ R1=63.5
+ R2=5.63
+ C= {Cpar}
+ K1=0.0000131
+ K2=2.76
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10507.3925
.ends 0603LS-562_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-782
* Inductance = 7370nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-25MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-782_freq port1 port2 PARAMS: Cpar=3.05pF Ind=7370nH
X1 port1 port2 Model1B PARAMS:
+ R1=90.4
+ R2=3.58
+ C= {Cpar}
+ K1=0.0000204
+ K2=4.46
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13150.4711
.ends 0603LS-782_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-822
* Inductance = 7801nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-23MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-822_freq port1 port2 PARAMS: Cpar=3.22pF Ind=7801nH
X1 port1 port2 Model1B PARAMS:
+ R1=108
+ R2=3.48
+ C= {Cpar}
+ K1=0.0000204
+ K2=4.99
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=12498.1101
.ends 0603LS-822_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0603LS-223
* Inductance = 20900nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-30MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0603LS-223_freq port1 port2 PARAMS: Cpar=2.43pF Ind=20900nH
X1 port1 port2 Model1B PARAMS:
+ R1=72.6
+ R2=8.81
+ C= {Cpar}
+ K1=0.0000033
+ K2=14.9
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=44177.6261
.ends 0603LS-223_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model w/ constant L
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1B Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
L1 N003 Lout = {K3}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1B




.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
